US07001900B2
Methyl 6-chloro-isoquinoline3-carboxylate (0.80 g, 3.6 mmol) is suspended in 95% EtOH (35 mL). KOH (0.61 g, 10.9 mmol) is added, and the reaction is heated to 80° C. When a white precipitate begins to form, 10 mL of H2O is added and all solid is redissolved. After heating for 1 hour, the reaction is cooled to rt and a white precipitate forms. The precipitate (identified as the K+ salt) is collected by vacuum filtration. The filtrate is acidified with concentrated HCl until the pH is between 4 and 5. The filtrate is loaded directly onto a column of AGW-×2 resin (H+ form) and the column is rinsed with MeOH. The product is eluted with a solution of 5% TEA in MeOH. This solution is concentrated, evaporated from MeCN three times, and the resulting solid is recrystallized from EtOH/H2O. This material is purified by preparative achiral HPLC to yield 0.10 g (13%) of 6-chloroisoquinoline-3-carboxylic acid. HRMS (FAB) calculated for C10H6ClNO2+H+: 208.0165, found 208.0164.

reactant | Methyl 6-chloro-isoquinoline3-carboxylate | 3.6 mmol, 0.80 g | ClC=1C=C2C=C(N=CC2=CC1)C(=O)OC | C11H8ClNO2
reactant | KOH | 10.9 mmol, 0.61 g | [OH-].[K+]
reactant | H2O | 10 mL | O | H2O
solvent | EtOH | 35 mL | CCO | C2H6O
product | 6-chloroisoquinoline-3-carboxylic acid | 0.10 g, 13% | ClC=1C=C2C=C(N=CC2=CC1)C(=O)O | C10H6ClNO2
